US08664217B2
Diethylmalonyl dichloride (0.95 ml, 5.5 mmol) was added to a dichloromethane solution (20 ml) of 4-methoxy-o-phenylenediamine (691 mg, 5 mmol) and triethylamine (1.7 ml, 12.5 mmol) at 0° C., and stirred at room temperature overnight. Water was added to the reaction mixture, and extraction with dichloromethane was performed. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=9:1→1:1). The purified product was concentrated to dryness under reduced pressure to thereby obtain 452.3 mg (yield: 34%) of 3,3-diethyl-7-methoxy-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione as a yellow oil.

reactant | Diethylmalonyl dichloride | 5.5 mmol, 0.95 ml | C(C)C(C(=O)Cl)(C(=O)Cl)CC | C7H10Cl2O2
reactant | 4-methoxy-o-phenylenediamine | 5 mmol, 691 mg | COC1=CC(=C(C=C1)N)N | C7H10N2O
reactant | triethylamine | 12.5 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3,3-diethyl-7-methoxy-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 452.3 mg, yield: 34% | C(C)C1(C(NC2=C(NC1=O)C=CC(=C2)OC)=O)CC | C14H18N2O3
